US09169259B2
A mixture of N-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-yl)-6-chloroimidazo[1,2-b]pyridazin-8-amine (400 mg, 1.08 mmol), methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (425 mg, 1.62 mmol), Pd2(dba)3 (64 mg, 0.11 mmol), X-phos (105 mg, 0.22 mmol) and Na2CO3 (343 mg, 3.24 mmol) in dioxane (5 mL) and water (5 mL) was heated to reflux for 15 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 25% acetonitrile/75% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give methyl 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (60 mg, 12%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.74 (s, 1H), 8.55 (s, 1H), 8.21-8.11 (m, 3H), 7.86 (s, 1H), 7.63-7.47 (m, 2H), 6.27 (d, 1H, J=5.4 Hz), 6.14 (d, 1H, J=7.2 Hz), 3.96 (s, 3H), 3.71-3.68 (m, 1H), 3.48-3.42 (m, 2H), 3.19-3.13 (m, 1H), 2.16-1.98 (m, 2H), 1.82-1.78 (m, 2H). 0.93 (s, 9H). LC-MS: 471, [M+H]+, tR=2.275 min, HPLC: 96.55% at 214 nm, 96.14% at 254 nm, tR=5.449 min.

reactant | N-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-yl)-6-chloroimidazo[1,2-b]pyridazin-8-amine | 1.08 mmol, 400 mg | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)Cl)C=CN2 | C19H23ClN6
reactant | methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.62 mmol, 425 mg | CC1(OB(OC1(C)C)C=1C=C(C(=O)OC)C=CC1)C | C14H19BO4
reactant | X-phos | 0.22 mmol, 105 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 3.24 mmol, 343 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.11 mmol, 64 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 3-(8-(6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 60 mg, 12% | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C27H30N6O2
